US04507317
A stirred solution of trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarboxylic acid (2.0 g; 0.0114 mole) and N,N-dimethylformamide (0.08 g) in 20 ml of dry diethyl ether was cooled to 0° C. A solution of oxalyl chloride (2.17 g; 0.017 mole) in 2 ml of dry diethyl ether was added to the reaction mixture during a 20 minute period. Upon complete addition the mixture was allowed to warm to room temperature and stir for two hours. The mixture was concentrated under reduced pressure to give a yellow oil. The oil was dissolved in 5 ml of dry diethyl ether and the solvent removed under reduced pressure to yield trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarbonylchloride as an oil.

reactant | trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarboxylic acid | 0.0114 mole, 2.0 g | FC(=C[C@@H]1C([C@H]1C(=O)O)(C)C)F | C8H10F2O2
reactant | N,N-dimethylformamide | 0.08 g | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.017 mole, 2.17 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarbonylchloride | FC(=C[C@@H]1C([C@H]1C(=O)Cl)(C)C)F | C8H9ClF2O
